US06593335B1
8-(4-chloro-3-nitrophenyl)-2,3,4,5,6,8-hexahydro-7H-cyclopenta[b]thieno[2,3-e]pyridin-7-one 1,1-dioxide
A solution of tetrahydrothiophene-3-oxo-1,1-dioxide (171 mg, 1.28 mmol), 4-chloro-3-nitrobenzaldehyde (210 mg, 1.13 mmol) and 3-amino-2-cyclopenten-1-one (110 mg, 1.13 mmol) in ethanol (3 mL) was heated to reflux for 24 hours and cooled. The precipitate was collected, washed with ethanol, dried and recrystallized from methanol/ chloroform to provide the title compound.

reactant | tetrahydrothiophene-3-oxo-1,1-dioxide | 1.28 mmol, 171 mg | C1CS(=O)(=O)CC1=O | C4H6O3S
reactant | 4-chloro-3-nitrobenzaldehyde | 1.13 mmol, 210 mg | ClC1=C(C=C(C=O)C=C1)[N+](=O)[O-] | C7H4ClNO3
reactant | 3-amino-2-cyclopenten-1-one | 1.13 mmol, 110 mg | NC1=CC(CC1)=O | C5H7NO
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | 8-(4-chloro-3-nitrophenyl)-2,3,4,5,6,8-hexahydro-7H-cyclopenta[b]thieno[2,3-e]pyridin-7-one 1,1-dioxide | ClC1=C(C=C(C=C1)C1C2=C(NC3=C1S(CC3)(=O)=O)CCC2=O)[N+](=O)[O-] | C16H13ClN2O5S
